US04472380
Prepare the benzylamide of 2-oxo-4-phenylbutyric acid by dissolving 3.0 g of this acid, 2.4 ml of benzylamine, and 4.7 ml of diphenylphosphorylazide in 60 ml of cold dimethylformamide and adding dropwise 2.6 ml of triethylamine in DMF, holding the temperature at about -10° C. for 2.5 hours. Store overnight at room temperature, strip off the DMF in vacuo, and partition the residue between water and ethyl acetate. Chromatograph the contents of the organic layer on silica gel, eluting with ethyl acetate:hexane 1:4. Evaporate the solvent from the product fractions to obtain 2.2 g of crystalline N-benzyl-2-oxo-4-phenylbutyramide. Couple 1.26 g of this with 0.19 g of L-Ala-L-Pro using 0.125 g of sodium cyanoborohydride in ethanol in the manner described in Example 44. Purify the crude product by gel filtration (LH-20) to obtain the mixture of diastereoisomers of N-(1-benzylaminocarbonyl-3-phenylpropyl)-L-alanyl-L-proline. The nmr spectrum (CDCl3) shows a doublet at 1.1 ppm (3H) a close pair of singlets at 7.3 (10H), and complex absorption at 1.6-2.3 (6H), 2.3-2.9 (2H), 2.9-3.8 (4H) and 4.0-4.6 (3H). The mass spectrum of silylated material shows prominent peaks at m/e=509 (monosilyl derivative) and 581 (disilyl derivative).

reactant | benzylamide | C(C1=CC=CC=C1)[NH-]
reactant | 2-oxo-4-phenylbutyric acid | O=C(C(=O)O)CCC1=CC=CC=C1 | C10H10O3
reactant | benzylamine | 2.4 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | diphenylphosphorylazide | 4.7 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | DMF | CN(C)C=O | C3H7NO
solvent | triethylamine | 2.6 ml | C(C)N(CC)CC | C6H15N
product | N-benzyl-2-oxo-4-phenylbutyramide | 2.2 g | C(C1=CC=CC=C1)NC(C(CCC1=CC=CC=C1)=O)=O | C17H17NO2
